US04435206
N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-pyridinesulfonamide
To a stirred suspension of 1.4 g of 2-amino-4-methoxy-6-methylpyrimidine in 20 ml of dry acetonitrile at room temperature is added 2.2 g of 2-pyridinesulfonylisocyanate. The mixture is stirred for several hours and filtered. Evaporation of the filtrate yields a solid residue which is stirred in approximately 30 ml of water while adjusting the pH of this mixture to 11 by the addition of 10% NaOH. This solution is filtered, the filtrate pH adjusted to pH 7 by adding 10% hydrochloric acid and the resulting neutral solution again filtered. The desired product is then precipitated from this filtrate by adjusting the pH to 2, collecting in a sintered funnel and drying in a vacuum oven at room temperature.

reactant | 2-amino-4-methoxy-6-methylpyrimidine | 1.4 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
reactant | 2-pyridinesulfonylisocyanate | 2.2 g | N1=C(C=CC=C1)S(=O)(=O)N=C=O | C6H4N2O3S
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | approximately 30 ml | O | H2O
product | N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-pyridinesulfonamide | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=NC=CC=C1 | C12H13N5O4S
